US04609730
To a suspension of benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylate (syn isomer) (3.70 g) and anisole (5.58 g) was added trifluoroacetic acid (14.71 g) under ice-cooling and the resultant mixture was stirred at the same temperature for 30 minutes. The reaction mixture was dropwise added to diisopropylether (200 ml) and the precipitates were collected by filtration. The precipitates were added to water and ethyl acetate and the mixture was adjusted to pH 7.0 with saturated aqueous sodium bicarbonate. The separated aqueous layer was acidified to pH 3.0 with 10% hydrochloric acid and the precipitates were collected by filtration to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylic acid (syn isomer) (1.55 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylate | 3.70 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C28H23N5O5S2
reactant | anisole | 5.58 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 14.71 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | diisopropylether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-ethynyl-3-cephem-4-carboxylic acid | 1.55 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C#C)C(=O)O)C1=O)C=1N=C(SC1)N | C15H13N5O5S2
